US06174898B1
1-(2-((2-(3-Methoxyphenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride
1-(2-((2-(3-Methoxyphenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester (1.15 g, 0.0027 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (15 ml) and 12 N sodium hydroxide solution (0.5 ml) was introduced. After stirring the solution at room temperature for 4 h, ice (30 g) was added, and pH of the reaction mixture was adjusted to ca. 7 with 37% hydrochloric acid solution. Dichloromethane (200 ml) was added, and the pH was further adjusted to ca. 1 with 37% hydrochloric acid solution. Water was added until the solid material was dissolved, and the dichloromethane phase was dried (Na2SO4) and evaporated to an oil, which was co-evaporated three times with acetone. The residue was triturated with diethyl ether to give the title compound (0.60 g, 52%).

reactant | 1-(2-((2-(3-Methoxyphenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CCOC=C(C1=C(C=CC=C1)C)C1=CC(=CC=C1)OC | C25H29NO4
reactant | sodium hydroxide | 12 N, 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | Dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | 1-(2-((2-(3-Methoxyphenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride | 0.60 g, 52% | Cl.COC=1C=C(C=CC1)C(=COCCN1CC(=CCC1)C(=O)O)C1=C(C=CC=C1)C | InChI=1S/C24H27NO4.ClH/c1-18-7-3-4-11-22(18)23(19-8-5-10-21(15-19)28-2)17-29-14-13-25-12-6-9-20(16-25)24(26)27;/h3-5,7-11,15,17H,6,12-14,16H2,1-2H3,(H,26,27);1H
